US06251907B1
To a mixture of 4-(3chloropropoxy)-3methoxybenzoic acid (2.4 g, 10 mmol) in dichloromethane (5 ml) was added thionyl chloride (0.9 ml, 12 mmol) dissolved in dichloromethane (5 ml). The reaction was stirred and refluxed for 1 hour, and then the dichloromethane was removed in vacuo to leave a dark oil. The oil was triturated with hexane and the solid that formed while scratching with a glass rod was collected to afford 1.6 g of (3chloropropoxy)-3-methoxybenzoyl chloride, m.p.=60-63° C.

reactant | 4-(3chloropropoxy)-3methoxybenzoic acid | 10 mmol, 2.4 g | ClCCCOC1=C(C=C(C(=O)O)C=C1)OC | C11H13ClO4
reactant | thionyl chloride | 12 mmol, 0.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (3chloropropoxy)-3-methoxybenzoyl chloride | 1.6 g | ClCCCOC1=C(C(=O)Cl)C=CC=C1OC | C11H12Cl2O3
